US08022062B2
1-(4-Bromomethyl-phenyl)-2-cyclopentyl-ethanone:
Add NBS (523 mg, 2.94 mmol) and AIBN (44 mg, 0.267 mmol) to a solution of 2-cyclopentyl-1-p-tolyl-ethanone (540 mg, 2.67 mmol) in carbon tetrachloride (80 mL) and heat overnight at 85° C. Add water and extract the aqueous phase with dichloromethane. Dry the organic phase over MgSO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (98:2, 95:5) to obtain the desired intermediate as an oil (479 mg, 64%).

reactant | NBS | 2.94 mmol, 523 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.267 mmol, 44 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | 2-cyclopentyl-1-p-tolyl-ethanone | 2.67 mmol, 540 mg | C1(CCCC1)CC(=O)C1=CC=C(C=C1)C | C14H18O
solvent | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-Bromomethyl-phenyl)-2-cyclopentyl-ethanone | 479 mg, 64% | BrCC1=CC=C(C=C1)C(CC1CCCC1)=O | C14H17BrO
